* Copyright (c) Linear Technology Corp. 1998, 1999, 2000, 2001, 2002, 2003, 2004, 2005.  All rights reserved.
*
.subckt LTC2864-1 1 2 3 4 5 6 7 8 9 10 11 12
MZPDRV 9 N002 N004 N004 PDRV
MZNDRV N008 N007 N010 N010 NDRV
G1 0 vrefGR 12 6 1m
C1 vrefGR 0 100f Rpar=500
C2 N005 0 550f Rpar=1g
S1 VCCGR N005 N003 0 SDIN
S2 N005 0 0 N003 SDIN
D1 N005 vrefGR DCLP
S3 12 N002 N005 vrefGRH SDPU
S4 N002 6 vrefGRL N005 SDPD
G3 0 VCCGR 12 6 10m
C4 VCCGR 0 100f Rpar=100
C7 N011 0 550f Rpar=1g
S9 VCCGR N011 N003 0 SDIN
S10 N011 0 0 N003 SDIN
D3 N011 vrefGR DCLN
S11 12 N007 N011 vrefGRH SDNU
S12 N007 6 vrefGRL N011 SDND
C8 N007 6 1p Rpar=1Meg
C6 12 9 1p Rpar=100meg
C5 9 6 1p Rpar=100meg
C17 N002 9 200f
C18 N008 N007 200f
C3 12 N002 1p Rpar=1Meg
G5 6 N002 VIlimUZ IlimUPZ 100m vto=0 dir=1
I1 0 IlimUPZ 15µ
S19 IlimUPZ 0 12 9 SIout
G12 0 VIlimDZ N010 6 3.8m
C31 VIlimDZ 0 100f Rpar=10k
I2 0 IlimDNZ 15µ
S22 IlimDNZ 0 9 6 SIout
G13 N007 12 VIlimDZ IlimDNZ 100m vto=0 dir=1
C9 N008 6 1p Rpar=10Meg
C11 N010 6 1p Rpar=2.6
C12 IlimUPZ 0 10p
C13 IlimDNZ 0 10p
G4 0 VIlimUZ 12 N004 1m
C14 VIlimUZ 0 100f Rpar=10k
S6 12 N007 SPDZ 0 SPullDwn
D2 12 N004 D1way
S5 12 N004 SRONZ 0 SREV
A3 3 vref 0 0 0 0 DEF 0 SCHMITT vt=0 vh=50m trise=10n
S7 6 N007 _DE 0 Soff
S8 N002 12 _DE 0 Soff
G14 0 SRONZ 12 9 20µ
C10 SRONZ 0 100f Rpar=2Meg
I3 0 SRONZ 6µ
S13 0 SRONZ 0 DE Soff2
D4 SRONZ 0 DLSR
G15 0 SPDZ 9 12 1µ
C15 SPDZ 0 100f Rpar=2Meg
I4 SPDZ 0 4µ
S14 0 SPDZ 0 DE Soff2
D6 SPDZ 0 DLSR
G16 0 N003 4 vref 1µ
C32 N003 0 1f Rpar=1Meg
C34 12 N004 1p
G17 0 vref 12 0 1m
C19 vref 0 100f Rpar=500
G18 0 vref 6 0 1m
MZPDRV1 8 N015 N016 N016 PDRV
MZNDRV1 N020 N019 N021 N021 NDRV
C23 N017 0 550f Rpar=1g
S16 VCCGR N017 0 N003 SDIN
S21 N017 0 N003 0 SDIN
D8 N017 vrefGR DCLP
S25 12 N015 N017 vrefGRH SDPU
S26 N015 6 vrefGRL N017 SDPD
C37 N025 0 550f Rpar=1g
S27 VCCGR N025 0 N003 SDIN
S28 N025 0 N003 0 SDIN
D14 N025 vrefGR DCLN
S29 12 N019 N025 vrefGRH SDNU
S30 N019 6 vrefGRL N025 SDND
C38 N019 6 1p Rpar=1Meg
C39 12 8 1p Rpar=100meg
C40 8 6 1p Rpar=100meg
C41 N015 8 200f
C42 N020 N019 200f
C44 12 N015 1p Rpar=1Meg
G20 6 N015 VIlimUY IlimUPY 100m vto=0 dir=1
I5 0 IlimUPY 15µ
S36 IlimUPY 0 12 8 SIout
G21 0 VIlimDY N021 6 3.8m
I6 0 IlimDNY 15µ
S37 IlimDNY 0 8 6 SIout
G22 N019 12 VIlimDY IlimDNY 100m vto=0 dir=1
C54 N021 6 1p Rpar=2.6
C55 IlimUPY 0 10p
C56 IlimDNY 0 10p
G23 0 VIlimUY 12 N016 1m
S38 12 N019 SPDY 0 SPullDwn
D22 12 N016 D1way
S39 12 N016 SRONY 0 SREV
S40 6 N019 _DE 0 Soff
S41 N015 12 _DE 0 Soff
G24 0 SRONY 12 8 20µ
C58 SRONY 0 100f Rpar=2Meg
I7 0 SRONY 6µ
S42 0 SRONY 0 DE Soff2
D23 SRONY 0 DLSR
G25 0 SPDY 8 12 1µ
C59 SPDY 0 100f Rpar=2Meg
I8 SPDY 0 4µ
S43 0 SPDY 0 DE Soff2
D24 SPDY 0 DLSR
C61 12 N016 1p
D5 9 N008 DNout
D15 8 N020 DNout
C45 N020 6 1p Rpar=10Meg
C49 9 N008 .5p
C53 8 N020 .5p
C63 N004 9 1p
C64 N008 N010 1p
C65 N016 8 1p
C66 N020 N021 1p
A9 _DE 0 vrefGR vrefGR vrefGR vrefGR vrefGRH vrefGR SCHMITT vt=.5 trise=5n vlow=0 vhigh=10
A10 0 _DE vrefGR vrefGR vrefGR vrefGR vrefGRL vrefGR SCHMITT vt=-.5 trise=5n vlow=-10 vhigh=0
A11 2 vref 0 0 0 N022 0 0 SCHMITT vt=0 vh=50m trise=10n
A12 DEF 0 0 0 0 0 N014 0 BUF Trise=12u Tfall=40n
S46 N012 DEF ON 0 SDelay
A13 N012 0 0 0 N014 _DE DE 0 OR trise=10n
C28 N012 0 1p Rpar=1k
A17 N027 0 N030 0 FailSafe 0 N033 0 OR trise=1n ref=.5 vlow=-1 vhigh=1 tripdt=1n
S45 12 1 N033 N034 SRO
S47 1 6 N041 N033 SRO
C67 12 1 500f
C68 1 6 500f
A19 N043 0 N044 0 _RE 0 Disable 0 OR trise=5n tripdt=2n
A20 Disable 0 0 0 0 0 N034 0 BUF ref=.5 trise=5n vlow=0 vhigh=1.5
A21 Disable 0 0 0 0 N041 0 0 BUF ref=.5 trise=5n vlow=-1.5 vhigh=0
A22 N022 0 0 0 0 0 N026 0 BUF Trise=10u Tfall=5n
S48 N023 N022 ON 0 SDelay
A23 N023 0 0 0 N026 _RE 0 0 OR trise=5n
C70 N023 0 1p Rpar=1k
G7 0 N042 11 6 .5m
G8 0 N042 10 6 .5m
C71 N042 0 100f Rpar=1k
A24 N042 0 0 0 0 0 N043 0 SCHMITT vt=26 vh=100m trise=10n
A25 0 N042 0 0 0 0 N044 0 SCHMITT vt=26 vh=100m trise=10n
S49 6 12 N022 0 SRPOW
A15 N028 N032 0 0 0 0 N030 0 SRFLOP trise=1n ref=.48 vlow=0 vhigh=1
A26 11 10 0 0 0 0 N031 0 SCHMITT vt=75m vh=0 trise=1n
A27 0 0 N031 0 N028 0 N029 0 DFLOP trise=10n tfall=1n
A28 N029 0 0 0 0 0 N028 0 BUF trise=76n tfall=5n
A29 10 11 0 0 0 0 N040 0 SCHMITT vt=75m vh=0 trise=1n
A30 0 0 N040 0 N032 0 N035 0 DFLOP trise=10n tfall=1n
A31 N035 0 0 0 0 0 N032 0 BUF trise=76n tfall=5n
A32 11 10 0 0 0 0 N027 0 SCHMITT vt=75m vh=0 trise=500u tfall=1n
A33 _RE 0 0 0 _DE ON 0 0 AND trise=5n tfall=80n
S50 6 12 DEF 0 STPOW1
D26 6 4 ESDL
D27 6 3 ESDL
D29 6 2 ESDL
D30 6 11 ESDH
D31 6 10 ESDH
C29 11 6 500f Rpar=112k
C36 10 6 500f Rpar=112k
D32 6 8 ESDH
D33 6 1 ESDL
D34 6 9 ESDH
C57 VIlimUY 0 100f Rpar=10k
C52 VIlimDY 0 100f Rpar=10k
A1 12 N039 0 0 0 0 FailSafe 0 SRFLOP trise=6u tfall=10n
A2 11 10 0 0 0 N038 0 0 SCHMITT vt=-62.5m vh=12.5m trise=10n
A4 N038 0 0 0 _RE 0 N039 0 OR trise=5n tripdt=2n
.model PDRV VDMOS(vto=-700m kp=400m mtriode=.3 rd=500m lambda=.1 subthres=5u  is=0 pchan)
.model NDRV VDMOS(vto=700m kp=210m mtriode=.7 rd=1.2 lambda=.05 subthres=5u is=0)
.model DCLP  D(Ron=10 Roff=1g vfwd=600m epsilon=100m vrev=500m epsilon=100m)
.model SDIN SW(Ron=100k Roff=1g vt=-100m vh=-200m)
.model SDPU SW(Ron=5k Roff=1G vt=0 vh=-100m)
.model SDPD SW(Ron=4k Roff=1G vt=0 vh=-100m)
.model DCLN  D(Ron=10 Roff=1g vfwd=550m epsilon=100m vrev=490m epsilon=100m)
.model SDNU SW(Ron=8k Roff=1G vt=0 vh=-100m)
.model SDND SW(Ron=4k Roff=1G vt=0 vh=-100m)
.model ESDL D(Ron=60 Roff=1g vfwd=700m epsilon=500m vrev=10 revepsilon=500m)
.model ESDH D(Ron=60 Roff=1g vfwd=62 epsilon=1 vrev=62 revepsilon=1)
.model SIout  SW(Ron=20k Roff=1Meg vt=30 vh=-20)
.model Sdelay SW(Ron=1 Roff=1g vt=.5 vh=-.2)
.model SREV SW(level=2 Ron=.1 Roff=10Meg vt=1 vh=-.1 ilimit=50m oneway epsilon=100m)
.model D1way  D(Ron=10 Roff=10 vfwd=0 vrev=0 revilimit=1u)
.model SPullDwn SW(Ron=100 Roff=1g vt=1 vh=-1 ilimit=10m)
.model Soff SW(Ron=1 Roff=1Meg vt=.5 vh=-.2)
.model Soff2 SW(Ron=1 Roff=2Meg vt=-.5 vh=-.2)
.model DLSR D(Ron=1 Roff=10Meg vfwd=2 epsilon=500m vrev=2 revepsilon=500m)
.model SRPOW SW(Ron=100 Roff=1g vt=.5 vh=-.4 ilimit=400u)
.model STPOW1 SW(Ron=100 Roff=1g vt=.5 vh=-.4 ilimit=500u)
.model SRO SW(Ron=125 Roff=1g vt=-100m vh=-200m ilimit=20m)
.model DNout D(Ron=1.1 Roff=1g vfwd=450m epsilon=500m)
.ends LTC2864-1
